US07507736B2
(4-Cyclopropanecarbonyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-methanone
The title compound was prepared in analogy to example 51, from [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride and cyclopropanoyl chloride. Light-yellow solid. MS (m/z): 439.5 (M+H)+.

reactant | [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCNCC1
reactant | cyclopropanoyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | (4-Cyclopropanecarbonyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-methanone | C1(CC1)C(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C | C25H34N4O3
